US08802668B2
(5-Fluoro-1H-indol-7-ylmethyl)-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester
Add a solution of di-tert-butyl dicarbonate (3.63 g, 16.65 mmol) in tetrahydrofuran (40 mL) drop wise to a solution of 2-[(5-fluoro-1H-indol-7-ylmethyl)-amino]-ethanol (3.15 g, 15.14 mmol) in tetrahydrofuran (60 mL) at 0° C. Stir the reaction mixture at room temperature for 2 hours. Add ethyl acetate (200 mL) and wash with saturated aqueous sodium chloride. Dry the organic phase over sodium sulfate and concentrate under reduced pressure to provide the desired compound as a pale yellow oil (4.9 g, >100%).

reactant | di-tert-butyl dicarbonate | 16.65 mmol, 3.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-[(5-fluoro-1H-indol-7-ylmethyl)-amino]-ethanol | 15.14 mmol, 3.15 g | FC=1C=C2C=CNC2=C(C1)CNCCO | C11H13FN2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | (5-Fluoro-1H-indol-7-ylmethyl)-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester | 4.9 g, >100% | C(C)(C)(C)OC(N(CCO)CC=1C=C(C=C2C=CNC12)F)=O | C16H21FN2O3
